US07420001B2
To a solution of 0.123 g (0.530 mmol) of 4-carbonyl-3-methylbenzofuran-2-carboxylic acid ethyl ester in 10 mL of ethanol was added 0.019 g (0.505 mmol) of sodium borohydride. The reaction was stirred at room temperature for 2 h and than diluted wuth water and extracted with ethyl acetate. The combined organics were washed with water and brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate/hexanes (1:3) to provide 0.113 g of 4-hydroxymethyl-3-methylbenzofuran-2-carboxylic acid ethyl ester.

reactant | 4-carbonyl-3-methylbenzofuran-2-carboxylic acid ethyl ester | 0.530 mmol, 0.123 g | C(C)OC(=O)C1OC=2C(=C1C)C(C=CC2)=C=O | C13H12O4
reactant | sodium borohydride | 0.505 mmol, 0.019 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-hydroxymethyl-3-methylbenzofuran-2-carboxylic acid ethyl ester | 0.113 g | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)CO | C13H14O4
